US09353081B2
(rac)-N-[4-(8-Chloro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-5,6,7,8-tetrahydro-isoquinolin-8-yl]-propionamide
In analogy to the procedure described for the preparation of example 28, 8-chloro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (intermediate A-8) and (rac)-N-(4-bromo-5,6,7,8-tetrahydro-isoquinolin-8-yl)-propionamide (intermediate B-1) were used to give the title compound as a white solid in 63% yield. MS: 398.3 (M+H)+.

reactant | 8-chloro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | ClC=1C=C(C=C2CCC(N(C12)C)=O)B1OC(C(O1)(C)C)(C)C | C16H21BClNO3
reactant | (rac)-N-(4-bromo-5,6,7,8-tetrahydro-isoquinolin-8-yl)-propionamide | BrC1=CN=CC=2C(CCCC12)NC(CC)=O | C12H15BrN2O
product | (rac)-N-[4-(8-Chloro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-5,6,7,8-tetrahydro-isoquinolin-8-yl]-propionamide | 63% yield | ClC=1C=C(C=C2CCC(N(C12)C)=O)C1=CN=CC=2C(CCCC12)NC(CC)=O | C22H24ClN3O2
